US03975537
5-methylbenzofuran
5-ethylbenzofuran in the procedure of Example 29 for 5-chlorobenzofuran followed by the synthetic steps of hydrazine reduction, acylation, demethylation, epoxide formation and opening of the epoxide with isopropylamine as described therein gives, ultimately, the following substituted benzofurans:

reactant | 5-ethylbenzofuran | C(C)C=1C=CC2=C(C=CO2)C1 | C10H10O
reactant | 5-chlorobenzofuran | ClC=1C=CC2=C(C=CO2)C1 | C8H5ClO
reactant | hydrazine | NN | H4N2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 5-methylbenzofuran | CC=1C=CC2=C(C=CO2)C1 | C9H8O
